US07968570B2
A solution of 5-(3-dimethylamino-prop-1-ynyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.055 g, 0.14 mmol) in ethanol (25 mL) was treated with 10% palladium on carbon (15 mg). The mixture was shook vigorously under 45 p.s.i. hydrogen for 3 h. The resulting reaction mixture was filtered through Celite and the filtrate concentrated under reduced pressure. Silica gel column chromatography of the resulting material using 5:1 CHCl3-MeOH afforded 5-(3-dimethylamino-propyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.051 g, 83%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.85 (m, 2H), 2.27 (s, 6H), 2.36 (t, 2H), 2.74 (t, 2H), 4.25 (s, 2H), 4.76 (s, 2H), 6.92-7.36 (m, 11H), 7.80 (d, 1H). GC-MS: 400 (M)+

reactant | 5-(3-dimethylamino-prop-1-ynyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.14 mmol, 0.055 g | CN(CC#CC=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1)C | C26H24N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 15 mg | [Pd] | Pd
product | 5-(3-dimethylamino-propyl)-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.051 g, 83% | CN(CCCC=1C=C2CN(C(C2=CC1)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1)C | C26H28N2O2
